US07368586B2
Preparation of N-[(trimethoxysilyl)methyl]-carbamoylmethyl ethyl ketone oxime with metal catalysis
A stirred mixture conditioned at a temperature of 80° C. of 86.1 g of 2-butanone oxime and 120 mg of “Borchi catalyst” (catalyst VP 0244 from Borchers GmbH, Langenfeld) was admixed over the course of 60 min with 150 g of (isocyanatomethyl)trimethoxysilane. After the end of the addition the mixture was stirred at the temperature stated for a further 60 min and excess 2-butanone oxime was removed by distillation. This gave N-[(trimethoxysilyl)methyl]carbamoylmethyl ethyl ketone oxime in quantitative yield with a purity of >95% (analysis by 29Si and 1H NMR).

reactant | 2-butanone oxime | 86.1 g | CC(CC)=NO | C4H9NO
reactant | (isocyanatomethyl)trimethoxysilane | 150 g | N(=C=O)C[Si](OC)(OC)OC | C5H11NO4Si
product | N-[(trimethoxysilyl)methyl]-carbamoylmethyl ethyl ketone oxime | quantitative yield | C(C)C(CC(NC[Si](OC)(OC)OC)=O)=NO | C9H20N2O5Si
